* C:\users\ninja\Mis Documentos\ProcesoPTH-GIT\documentacion\Simulaciones\DriverMos.asc
Q1 N009 N015 0 0 2N3904
Q2 0 N010 N004 0 2N2907
R1 N015 N014 4700
R2 N010 N009 100
R3 N009 N001 4700
R4 N001 N004 180
R5 N005 N004 22
M1 N011 N005 N001 N001 SQJ469EP
D1 N004 N004 BZX84C12VL
R6 N011 0 1
V1 N001 0 24
V2 N014 0 PULSE(0 5 10u 0.01n 0.01n 50u 100u 5)
D2 NC_01 0 1N4148
D4 N005 N001 BZX84C12VL
Q3 N021 N025 N026 0 2N3904
Q4 0 N022 N019 0 2N2907
R7 N025 N024 4700
R8 N022 N021 100
R9 N021 N018 4700
R10 N018 N019 180
R11 N020 N019 22
M2 N023 N020 N018 N018 SQJ469EP
D3 N019 N019 BZX84C12VL
R12 N023 0 1
V3 N018 0 24
V4 N024 0 PULSE(0 5 10u 0.01n 0.01n 50u 100u 5)
D5 N026 0 1N4148
D6 N020 N018 BZX84C12VL
Q5 N030 N035 0 0 2N3904
Q6 0 N031 N028 0 2N2907
R13 N034 N033 4700
R14 N031 N030 100
R15 N030 N027 4700
R16 N027 N028 180
R17 N029 N028 22
M3 N032 N029 N027 N027 SQJ469EP
D7 N028 N028 BZX84C12VL
R18 N032 0 1
V5 N027 0 24
V6 N033 0 PULSE(0 5 10u 0.01n 0.01n 50u 100u 5)
D8 N034 N035 1N4148
D9 N029 N027 BZX84C12VL
Q7 N012 N017 0 0 BC547B
Q8 0 N006 N007 0 2N2907
R19 N017 N016 4700
R20 N006 N012 100
R21 N012 N002 4700
R22 N002 N007 500
R23 N008 N007 100
M4 N013 N008 N003 N003 SQJ469EP
R24 N013 0 0.33
V7 N003 0 24
V8 N016 0 PULSE(0 5 10u 0.01n 0.01n 50u 100u 5)
D12 N008 N003 BZX84C12VL
D11 N006 N007 1N4148
V9 N002 0 24
.model D D
.lib C:\users\ninja\Mis Documentos\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\ninja\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\ninja\Mis Documentos\LTspiceXVII\lib\cmp\standard.mos
.tran 500u
.backanno
.end
